US03939175
7.75 g (0.01 mol) of 3,3'-hexamethylene-bis-[5-(3",5" -di-tert-butyl-4"-hydroxyphenylethyl)-5-methylhydantoin] is added portionwise with stirring to a slurry of 1.92 g (0.04 mol) of a 50% dispersion of sodium hydride in mineral oil in 100 g of dry dimethylformamide. The temperature of the reaction mixture is maintained at 50°-55°C until gas evolution ceases. 3.3 g (0.02 mol) of 1-bromohexane is then added dropwise over a period of 15-30 minutes. The temperature of the mixture is maintained between 60°-80°C until the reaction is complete. The reaction mixture is then poured into water and neutralized with dilute hydrochloric acid. The mixture is then extracted with chloroform. The chloroform phase is dried and completely concentrated under reduced pressure to yield as the residue the desired 3,3'-hexamethylene-bis[5-(3",5" -di-tert-butyl-4"-hydroxyphenylethyl)-5-methyl-1-n-hexylhydantoin].

reactant | 3,3'-hexamethylene-bis-[5-(3",5" -di-tert-butyl-4"-hydroxyphenylethyl)-5-methylhydantoin] | 0.01 mol, 7.75 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC1(C(N(C(N1)=O)CCCCCCN1C(NC(C1=O)(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C)=O)=O)C | C46H70N4O6
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromohexane | 0.02 mol, 3.3 g | BrCCCCCC | C6H13Br
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 100 g | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,3'-hexamethylene-bis[5-(3",5" -di-tert-butyl-4"-hydroxyphenylethyl)-5-methyl-1-n-hexylhydantoin] | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC1(C(N(C(N1CCCCCC)=O)CCCCCCN1C(N(C(C1=O)(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C)CCCCCC)=O)=O)C | C58H94N4O6
